US06403610B1
A mixture of 1.35 g of methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-(2-chloroethyl)piperidine-3-carboxylate dihydrochloride in 20 cm3 of acetonitrile was stirred at a temperature in the region of 20° C. under an inert atmosphere. 1.37 g of potassium carbonate and 0.456 g of potassium iodide were added, followed by 0.367 g of 2-mercaptopyridine and 1 cm3 of methanol. A red suspension was obtained, which suspension was heated at a temperature in the region of 80° C. for 1 hour 30 minutes. After cooling the reaction mass to a temperature in the region of 20° C., the insoluble material was filtered off and washed with acetonitrile. The filtrate was evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The evaporation residue was purified by chromatography under a nitrogen pressure of 100 kPa on a column of silica gel (particle size 40-63 μm; diameter 3.5 cm; silica height 35 cm), elution was carried out with an ethyl acetate/methanol (95/5 by volume) mixture, and 35-cm3 fractions were collected. Fractions 19 to 40 were combined and then evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 0.77 g of methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(pyridin-2-ylthio)ethyl]piperidine-3-carboxylate was obtained in the form of a viscous oil with a red color.

reactant | methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-(2-chloroethyl)piperidine-3-carboxylate dihydrochloride | 1.35 g | Cl.Cl.O=C(CC[C@H]1[C@H](CN(CC1)CCCl)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC
reactant | potassium carbonate | 1.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.456 g | [I-].[K+]
reactant | 2-mercaptopyridine | 0.367 g | SC1=NC=CC=C1 | C5H5NS
solvent | acetonitrile | 20 cm3 | C(C)#N | C2H3N
solvent | methanol | 1 cm3 | CO | CH4O
product | methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(pyridin-2-ylthio)ethyl]piperidine-3-carboxylate | 0.77 g | O=C(CC[C@H]1[C@H](CN(CC1)CCSC1=NC=CC=C1)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C27H31N3O4S
